US04785103
A mixture of 20 mg of 17α-acetoxy-6α,7α-epoxy-1ξ-hydroxy-2-oxa-4-pregnene-3,20-dione and 3 ml of 16% hydrochloric acid/ethyl acetate solution was stirred at room temperature for 10 minutes. A saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated to give 21 mg of 17α-acetoxy-6β-chloro-1ξ,7α-dihydroxy-2-oxa-4-pregnene-3,20-dione.

reactant | 17α-acetoxy-6α,7α-epoxy-1ξ-hydroxy-2-oxa-4-pregnene-3,20-dione | 20 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@H]4[C@@H](C5=CC(OC([C@]5(C)[C@H]3CC[C@]12C)O)=O)O4 | C22H28O7
reactant | hydrochloric acid ethyl acetate | 3 ml | Cl.C(C)(=O)OCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 17α-acetoxy-6β-chloro-1ξ,7α-dihydroxy-2-oxa-4-pregnene-3,20-dione | 21 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@@H]([C@H](C4=CC(OC([C@]4(C)[C@H]3CC[C@]12C)O)=O)Cl)O | C22H29ClO7
